US09169205B2
2(-2-Benzyloxy-acetylamino)-4-methyl-thiazole-5-carboxylic acid
300 mg (1.90 mmol) 2-Amino-4-methylthiazole-5-carboxylic acid and 0.67 mL (6.07 mmol) N-methylmorpholine are added to 20 mL DMF. After adding 0.32 mL (2.09 mmol) benzyloxyacetyl chloride the resulting mixture is stirred at 80° C. over night. Then the mixture is callowed to cool to r.t. and slightly acidified with aq. HCl solution (c=1 mol/L). The solvent is removed in vacuo, water is added and the suspension is stirred for 10 min before the precipitate is filtered off and dried.

reactant | 2-Amino-4-methylthiazole-5-carboxylic acid | 1.90 mmol, 300 mg | NC=1SC(=C(N1)C)C(=O)O | C5H6N2O2S
reactant | N-methylmorpholine | 6.07 mmol, 0.67 mL | CN1CCOCC1 | C5H11NO
reactant | benzyloxyacetyl chloride | 2.09 mmol, 0.32 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | HCl | 1 mol/L | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2(-2-Benzyloxy-acetylamino)-4-methyl-thiazole-5-carboxylic acid | C(C1=CC=CC=C1)OCC(=O)NC=1SC(=C(N1)C)C(=O)O | C14H14N2O4S
